US08133909B2
(1-Methyl-1H-indol-6-yl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
To 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine (200 mg, 1.05 mmol) was added 6-bromo-1-methyl-1H-indole (685 mg, 2.10 mmol), cuprous iodide (10 mg, 0.05 mmol) and cesium carbonate (685 mg, 2.1 mmol) under an argon atmosphere. Then DMF (400 μl) and 2-acetylcyclohexanone (28 μl, 0.21 mmol) were added and the reaction mixture was stirred for 4 h at 120° C. After cooling to ambient temperature the reaction mixture was separated between tert-butylmethylether (2×20 ml) and water (15 ml). The combined organic layers were washed with brine (15 ml) and dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 67:33) afforded the title compound (114 mg, 34%) as a light brown oil. MS m/e: 320.1 [M+H]+.

reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | 1.05 mmol, 200 mg | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
reactant | 6-bromo-1-methyl-1H-indole | 2.10 mmol, 685 mg | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
reactant | cesium carbonate | 2.1 mmol, 685 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-acetylcyclohexanone | 0.21 mmol, 28 μl | C(C)(=O)C1C(CCCC1)=O | C8H12O2
solvent | DMF | 400 μl | CN(C)C=O | C3H7NO
product | (1-Methyl-1H-indol-6-yl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | 114 mg, 34% | CN1C=CC2=CC=C(C=C12)NCCC1=NC=C(C=C1)C(F)(F)F | C17H16F3N3
